US04985419
A 2.2N ethereal solution (2.02 cc) of hydrochloric acid is added to a solution of 10-{1-[(2R)-2-acetoxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)- 2-phenothiazinecarboxamide, L series (2.40 g) in acetonitrile (14 cc). The solution obtained is introduced dropwise into ethyl ether (400 cc), briskly stirred; a precipitate develops and the suspension is stirred for 12 hours at 25° C. The precipitate is filtered off on sintered glass, washed with ethyl ether (3×20 cc) and dried at 40° C. under reduced pressure (5 mm Hg; 0.068 kPa) to give 10-{1-[(2R)-2-acetoxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarboxamide hydrochloride, L series (2.17 g), m.p. 140° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 10-{1-[(2R)-2-acetoxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)- 2-phenothiazinecarboxamide | C(C)(=O)OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)NCCC(C)C | C28H37N3O3S
reactant | ethyl ether | 400 cc | C(C)OCC | C4H10O
solvent | acetonitrile | 14 cc | C(C)#N | C2H3N
product | 10-{1-[(2R)-2-acetoxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarboxamide hydrochloride | Cl.C(C)(=O)OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)NCCC(C)C | InChI=1S/C28H37N3O3S.ClH/c1-19(2)13-14-29-28(33)22-11-12-27-25(16-22)31(24-9-5-6-10-26(24)35-27)20(3)17-30-15-7-8-23(30)18-34-21(4)32;/h5-6,9-12,16,19-20,23H,7-8,13-15,17-18H2,1-4H3,(H,29,33);1H/t20?,23-;/m1./s1
